US04617396
In still another aspect of the invention, a method of preparing a 2,5-bis(2,2,2-trifluoroethoxy)-N-(2-piperidylmethyl)benzamide is provided which comprises the following steps. Hydroquinone is contacted with 2,2,2-trifluoroethyl trifluoromethanesulfonate under conditions to yield 1,4-bis(2,2,2-trifluoroethoxy)benzene. Then, in the presence of a Lewis acid catalyst, the 1,4-bis(2,2,2-trifluoroethoxy)benzene is treated with an acetylation agent under conditions to create 2,5-bis(2,2,2-trifluoroethoxy)acetophenone. The methyl moiety of the acetophenone function of the 2,5-bis(2,2,2-trifluoroethoxy)acetophenone is thereafter replaced using hypochlorite to yield 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid. Subsequently, the 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid is treated with an inorganic chloride to provide 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid chloride. Finally, the resultant 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid chloride is contacted with 2-aminomethylpiperidine, whereby there is formed 2,5-bis(2,2,2-trifluoroethoxy)-N-(2-piperidylmethyl)benzamide.

reactant | 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid chloride | FC(COC1=C(C(=O)Cl)C=C(C=C1)OCC(F)(F)F)(F)F | C11H7ClF6O3
reactant | 2-aminomethylpiperidine | NCC1NCCCC1 | C6H14N2
product | 2,5-bis(2,2,2-trifluoroethoxy)-N-(2-piperidylmethyl)benzamide | FC(COC1=C(C(=O)NCC2NCCCC2)C=C(C=C1)OCC(F)(F)F)(F)F | C17H20F6N2O3
